US09085555B2
D. (3-Carbamoyl-5-methyl-pyrazolo[3,4-c]pyridin-1-yl)-acetic acid
A solution of tert-butyl 2-(3-cyano-5-methyl-1H-pyrazolo[3,4-c]pyridin-1-yl)acetate (250 mg, 0.92 mmol) in TFA (4 mL) was subjected to microwave irradiation at 140° C. for 90 min. The reaction mixture was concentrated in vacuo, the residual solid was suspended in methanol and concentrated again in vacuo. MS: 235.0 [M+H]+; tR (HPLC conditions k): 0.24 min.

reactant | tert-butyl 2-(3-cyano-5-methyl-1H-pyrazolo[3,4-c]pyridin-1-yl)acetate | 0.92 mmol, 250 mg | C(#N)C1=NN(C2=CN=C(C=C21)C)CC(=O)OC(C)(C)C | C14H16N4O2
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (3-Carbamoyl-5-methyl-pyrazolo[3,4-c]pyridin-1-yl)-acetic acid | C(N)(=O)C1=NN(C2=CN=C(C=C21)C)CC(=O)O | C10H10N4O3
